US04925879
A suspension of zinc dust (25.5 g) (which had been activated by treatment with excess 3N hydrochloric acid followed by washing with water, ethanol and ether and drying) in dry tetrahydrofuran (250 ml) was stirred and heated under reflux while ethylbromoacetate (5 ml) was added dropwise. Stirring was continued for 15 minutes and 1-(4-chlorophenyl)cyclobutanecarbonitrile (15 g) was added. The mixture was heated under reflux and ethyl bromoacetate (60 g) was added over a period of 1 hour and the heating continued for a further 15 minutes. The mixture was then cooled and tetrahydrofuran (700 ml) and 25% aqueous potassium carbonate solution (300 ml) were added and the mixture was stirred for 15 minutes. The aqueous phase of the reaction mixture was separated, extracted with ether and the extracts combined with the organic phase of the reaction mixture, washed with brine and dried. Removal of the solvents gave an oil which was extracted with petroleum ether (b.p. 40°-60° C.). Removal of the solvent by evaporation gave ethyl 3-amino-3-[1-(4-chlorophenyl)cyclobutyl]acrylate.

reactant | ethylbromoacetate | 5 ml | C(C)OC(CBr)=O | C4H7BrO2
reactant | 1-(4-chlorophenyl)cyclobutanecarbonitrile | 15 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | ethyl bromoacetate | 60 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 300 ml | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | zinc | 3N, 25.5 g | [Zn] | Zn
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | ethyl 3-amino-3-[1-(4-chlorophenyl)cyclobutyl]acrylate | NC(=CC(=O)OCC)C1(CCC1)C1=CC=C(C=C1)Cl | C15H18ClNO2
